US09302989B2
N2-{4-[(cyclopentylacetyl)amino]phenyl}-1,3-dihydro-2H-isoindole-2,5-dicarboxamide
The title compound was prepared as described in Example 132 substituting 5-cyano-N-{4-[(cyclopentylacetyl)amino]phenyl}-1,3-dihydro-2H-isoindole-2-carboxamide for 5-cyano-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide. 1H NMR (300 MHz, DMSO-d6) δ ppm 9.69 (s, 1H), 8.31 (s, 1H), 7.98 (s, 1H), 7.87-7.78 (m, 2H), 7.53-7.38 (m, 5H), 7.36 (brs, 1H), 4.78 (bs, 4H), 2.32-2.13 (m, 3H), 1.82-1.67 (m, 2H), 1.67-1.42 (m, 4H), 1.27-1.10 (m, 2H); MS (ESI(+)) m/e 407 (M+H)+.

reactant | 5-cyano-N-{4-[(cyclopentylacetyl)amino]phenyl}-1,3-dihydro-2H-isoindole-2-carboxamide | C(#N)C=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)NC(CC1CCCC1)=O | C23H24N4O2
reactant | 5-cyano-N-(4-(propylcarbamoyl)phenyl)isoindoline-2-carboxamide | C(#N)C=1C=C2CN(CC2=CC1)C(=O)NC1=CC=C(C=C1)C(NCCC)=O | C20H20N4O2
product | N2-{4-[(cyclopentylacetyl)amino]phenyl}-1,3-dihydro-2H-isoindole-2,5-dicarboxamide | C1(CCCC1)CC(=O)NC1=CC=C(C=C1)NC(=O)N1CC2=CC=C(C=C2C1)C(=O)N | C23H26N4O3
